.subckt SWeq 1 2 x=1 y=1 Rmin=10u Rmax=1g
R 1 2 R=if((x==y),Rmin,Rmax)
.ends SWeq
.subckt SWneq 1 2 x=1 y=1 Rmin=10u Rmax=1g
R 1 2 R=if((x==y),Rmax,Rmin)
.ends SWneq